US07667041B2
Synthesis of 1-(4-bromo-2-methoxyphenyl)-4-methyl-1H-imidazole
A mixture of N-(4-bromo-2-methoxyphenyl)-N-(2-oxopropyl)acetamide (23.4 g), ammonium acetate-(31.5 g), and acetic acid (49 g) was agitated under heating at 120° C. for 30 minutes. After the reaction solution was neutralized with sodium hydroxide under ice-cooling, the reaction solution was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), and 19.4 g of the title compound was obtained.

reactant | N-(4-bromo-2-methoxyphenyl)-N-(2-oxopropyl)acetamide | 23.4 g | BrC1=CC(=C(C=C1)N(C(C)=O)CC(C)=O)OC | C12H14BrNO3
reactant | ammonium acetate- | 31.5 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 49 g | C(C)(=O)O | C2H4O2
product | 1-(4-bromo-2-methoxyphenyl)-4-methyl-1H-imidazole | 19.4 g | BrC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C11H11BrN2O
